Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
acute onset vertigo; called as Code Stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old right-handed man with a PMH
significant for CAD s/p L coronary stent, HTN, spinal stenosis,
HLD and possible NPH who presented to ___ with acute 
onset
vertigo and was transferred to ___ as a Code Stroke. He was in
his usual state of good health today until he developed vertigo
around 6:45 ___. Actually, according to the patient, he initially
said his symptoms began at 5:45 ___, but his wife arrived later
and clarified the timing of events and she said the actual onset
was around 6:45 ___. He was at his laptop, just finishing a 
snack,
when his wife called him into the kitchen for dinner. He said 
his
symptoms started when standing to go to the kitchen. He does not
recall which way the room was spinning, but believes it may have
been counter-clockwise. He was able to make it to the kitchen,
but knew he would not be able to eat and went to the bathroom,
but did not vomit at that time. He then went to lie down on the
couch and vomited what he estimated to be a quart of liquid. He
lay there for about half hour with not moving his head and
thought he was doing better, but when he opened his eyes and
raised his head, the vertigo returned. At that time, he went to
the hospital. He notes that moving his head made the vertigo
worse, but initially, it was present even at rest. It did not
matter which direction he moved his head. At ___, he
received ASA 81 mg x 4 tabs, Ativan and Zofran. He was then
transferred to ___ for further care. Currently, he notes that
he is feeling much better, but notes the vertiginious sensation
when moving his head in either direction; however, now it 
appears
as if the room is moving laterally rather than spinning. 
  Of note, he says he a similar case of vertigo about 2 weeks
ago, but that only lasted about ___ minutes and self-resolved;
he does say that he vomited a little bit at that time. His wife
says that including today's episode, he has now had 3 episodes 
of
vertigo in the last 3 weeks. No prior history of vertigo. No
recent viral illnesses. He did have hot water squirted into both
of his ears at the end of ___ to clean wax out. No hearing 
loss
or tinnitus associated with the vertigo. 
  
 
Neuro ROS: Positive for the acute onset vertigo as noted above.
Also positive for pressure-type right frontal and left occipital
headaches, going up to about ___ in intensity and occurring
approx. every other day for the past 3 weeks. His last headache
was yesterday. No loss of vision, blurred vision, dipolopia,
dysarthria, dysphagia, tinnitus, hearing difficulty, producing 
or
comprehending speech. No focal focal weakness. He does have
tingling in his hands and in his feet up to his calfs when 
laying
for a while. His wife also notes that he has a long-standing
broad-based gait and drags his left leg when he walks; this has
been attributed to possible NPH in the past. He adds that he
feels like he is on the deck of a ship everyday for a long time,
though possibly worse over the past 3 weeks. No bowel or bladder
incontinence. No significant cognitive changes as per his wife,
though she notes that he has had increasing difficulty with
attention. 
 
General ROS: Positive for the nausea and vomiting associated 
with
the vertigo. No fever or chills, cough, shortness of breath,
chest pain or tightness, palpitations, abdominal pain, dysuria.
or rash. He has been having myalgias, for which a trial of d/c
Simvastatin was tried a few weeks ago, but this has not resulted
in any significant improvement.
 
Past Medical History:
-gastroesophageal reflux
-colon polyps
-HTN
-spinal stenosis s/p decompression and fusion L3-5
-BPH s/p TURP
-HLD 
-Raynaud's
-?NPH 
-CAD s/p L coronary stent 
 
Social History:
___
Family History:
His mother and father are deceased during the
___. Maternal aunt with ___ and HTN and CAD in
maternal family. Father's history unknown. No known strokes in
the family. 

 
Physical Exam:
Vitals: T: 97.5 P: 90 R: 18  BP: 151/89  SaO2: 99% RA

General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple 
Pulmonary: lcta b/l  
Cardiac: RRR, S1S2, no murmurs appreciated
Abdomen: soft, NT/ND, +BS 
Extremities: feet cold and erythematous, but good pedal pulses
b/l; no edema 
 
Neurologic: 

___ Stroke Scale score was:  0
1a. Level of Consciousness: 0  
1b. LOC Question: 0  
1c. LOC Commands: 0  
2. Best gaze: 0  
3. Visual fields: 0  
4. Facial palsy: 0  
5a. Motor arm, left: 0  
5b. Motor arm, right: 0  
6a. Motor leg, left: 0  
6b. Motor leg, right: 0  
7. Limb Ataxia: 0  
8. Sensory: 0  
9. Language: 0  
10. Dysarthria: 0  
11. Extinction and Neglect: 0  

Mental Status: Awake, alert, oriented to person, place and date. 

Able to relate history, though made some mistakes with regard to
timing.  Attentive, able to name ___ backward without 
difficulty.
Able to follow both midline and appendicular commands. Able to
perform simple calculations. No right-left confusion. Able to
register 3 objects but recall ___ at 5 minutes ___ with
prompting). No evidence of apraxia or neglect  

Language: speech is clear, fluent, nondysarthric with intact
naming, repetition and comprehension. Normal prosody. There were
no paraphasic errors. Able to read without difficulty.  

Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 1 mm to pinpoint b/l.  VFF to confrontation. Unable to
assess fundi due to small pupils.  
III, IV, VI: nystagmus when looking right. No nystagmus when
looking left. On vertical gaze, there is again horizontal
nystagmus noted, but no vertical nystagmus. 
V: Diminished light touch in V1 and V2 on  right (90% of left)
and diminished pinprick in V1 on right. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted. 
  Delt Bic Tri WrE FFl FE IP Quad Ham TA Gastroc  
L  5    ___   ___   5    5  5     5    
R  5    ___   ___   5    5  5     5   
 
Sensory: Diminished light touch RLE (70%) compared to left. No
differences to light touch in UE. There is diminished pinprick 
in
the RUE (90%) compared to the left but is intact in the ___ b/l.
There is decreased vibratory sense up to the knee on the right,
but only mildly diminished on the left. There is mildly
diminished proprioceptive loss on the right greater than left. 
No
extinction to DSS. 
 
DTRs: 3+ at biceps/triceps/brachioradialis/patellae on left and
2+ on right. Unable to elicit ankle jerks b/l. Extensor plantar
response b/l. 
 
Coordination: No intention tremor or dysmetria on finger-nose,
FNF or HKS bilaterally. There was slight overshoot with 
mirroring
on the right compared to the left. No rebound noted. Finger
tapping into crease is slow, but accurate b/l. 
 
Gait: Able to stand, but felt unsteady and was leaning on bed.
When he put his feet together, he began leaning over to the 
right
and became more unsteady, so he was placed back in bed. Unable 
to
assess gait further. 

___ testing was positive with head turned to the right,
but not to the left. When turned to the right, this exacerbated
the vertigo and the nystagmus to the right was more pronounced. 

 
Pertinent Results:
Radiologic Data: 
___   MR HEAD W/O CONTRAST - prelim: Lateral 
ventriculomegaly, out of proportion to sulcal prominence, 
increased slightly compared to ___. Correlate clinically 
for normal pressure hydrocephalus. 
   
___   CHEST (PORTABLE AP): No previous images. Low lung 
volumes may account for some of the prominence of the transverse 
diameter of the heart. No vascular congestion or pleural 
effusion. Specifically, no evidence of acute focal pneumonia. 
            
___   CTA HEAD/NECK/BRAIN: No acute interval change 
compared to the prior examinations.  Persistent lateral 
ventriculomegaly. No flow limiting stenosis or evidence of 
infarct.   

Labs on admission:
___ 11:20PM BLOOD WBC-7.8 RBC-4.10* Hgb-13.2* Hct-38.3* 
MCV-94 MCH-32.2* MCHC-34.4 RDW-14.0 Plt ___
___ 11:20PM BLOOD Neuts-85.1* Lymphs-11.2* Monos-2.8 
Eos-0.6 Baso-0.3
___ 11:20PM BLOOD ___ PTT-20.7* ___
___ 11:20PM BLOOD Glucose-132* UreaN-24* Creat-0.9 Na-142 
K-4.2 Cl-104 HCO3-29 AnGap-13
___ 11:20PM BLOOD Calcium-8.7 Phos-2.5* Mg-1.9
___ 11:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
.
Labs on discharge:
___ 07:15AM BLOOD WBC-5.2 RBC-3.91* Hgb-12.7* Hct-36.8* 
MCV-94 MCH-32.4* MCHC-34.5 RDW-14.1 Plt ___
___ 07:15AM BLOOD Glucose-103* UreaN-22* Creat-1.0 Na-142 
K-4.0 Cl-106 HCO3-30 AnGap-10
___ 07:15AM BLOOD ALT-21 AST-17 AlkPhos-55
___ 07:15AM BLOOD cTropnT-<0.01
___ 07:15AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0 Cholest-197
___ 07:15AM BLOOD %HbA1c-5.7 eAG-117
___ 07:15AM BLOOD Triglyc-94 HDL-56 CHOL/HD-3.5 LDLcalc-122
 
Brief Hospital Course:
Mr. ___ is a ___ year-old right-handed man with a PMH 
significant for CAD s/p L coronary stent, HTN, spinal stenosis, 
HLD and possible NPH who presented to ___ with acute 
onset vertigo and was transferred to ___ as a Code Stroke. His
symptoms are now significantly improved, though he still notes 
vertigo with head movements. On exam, his NIHSS is 0; he has 
nystagmus when looking to the right, but not the left and no 
dysmetria, though he has slight overshoot with mirroring on the
right. He also falls to the right when standing with his feet 
together. On ___ testing, his symptoms are reproduced 
when head is turned to the right and his nystagmus is more 
pronounced as well. There is no acute process noted on imaging
and no flow limiting stenosis noted on CTA. The recent history 
of 2 similar, though shorter and less severe events, and the 
positive ___ maneuver indicate that this is likely a 
peripheral process. However, he does have vascular risk factors,
this event was of acute onset, he was admitted to the Neurology 
Stroke Service for further work-up for a possible stroke. 

Neurology: MRI negative for stroke. However, due to his stroke 
risk factors, ASA 81mg daily started. HbA1c: 5.7, LDL 122. 
Started on simvastatin 20mg daily for stroke risk reduction. Pt 
to follow-up with Dr. ___ continued outpatient workup of 
chronic, progressive lower extremity paresthesias and wide-based 
gait. Pt may take meclizine for vertigo upon discharge.

Cardiology: Initially allowed BP to autoregulate, held Lisinpril 
at time of admission, will restart at time of discharge. CXR 
without focal findings.

___ recommended pt be discharged to rehab. Patient and family 
in agreement.
 
Medications on Admission:
-Naproxen 500 mg bid prn 
-Lisinopril 10 mg daily 
-Ranitidine 150 mg prn   
-coenzyme Q10 daily   
-Vitamin D
-Vitamin C 
-Multivitamin daily 
-Celexa 30mg daily

 
Discharge Medications:
1. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. naproxen 500 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for pain.  
4. lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  
5. ranitidine HCl 150 mg Capsule Sig: One (1) Capsule PO once a 
day as needed for heartburn.  
6. Vitamin D  Oral
7. Vitamin C  Oral
8. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
9. Celexa 10 mg Tablet Sig: Three (3) Tablet PO once a day.  
10. meclizine 12.5 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed for vertigo.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___
 
Discharge Diagnosis:
Vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
 
You were admitted for dizziness.  An MRI showed that you did NOT 
have a stroke.  However, due to your stroke risk factors, you 
were started on aspirin 81mg daily for stroke protection.  Your 
stroke risk factors were checked.  Your LDL cholesterol was 122. 
 You were started on simvastatin 20mg daily to lower your 
cholesterol.  You were checked for blood glucose control with a 
HgB A1c.  The level was 5.7.  You need to continue your blood 
pressure control.  You should not smoke. 
 
You should continue to eat a low fat healthy diet, and follow up 
with your primary care physician and Dr. ___ as noted below.
 
It was a pleasure taking care of you.  
 
Followup Instructions:
___